US06846915B2
Preparation of 1-benzyl-3-benzyloxy-6-methyl-4-(2-thioxo-thiazolidine-3-carbonyl)-2(1H)-pyridinone (Formula 50 in Scheme 10)
1-benzyl-3-benzyloxy-4-carboxy-6-methyl-2(1H)-pyridinone (5.36 g, 15.3 mmol) was dissolved in CH2Cl2 (100 ml) under an atmosphere of nitrogen. Then 2-mercaptothiazoline (1.88 g, 16.1 mmol) and dimethylaminopyridine (DMAP, 0.16 g, 1.0 mmol) were added and the solution stirred for 1 h. Dicyclohexylcarbodiimide (DCC, 3.45 g, 16.9 mmol) was then added in small portions and the reaction mixture stirred for 16 h, and then allowed to stand for 24 h at 0° C. The reaction mixture was filtered and the solvent removed by evaporation. EtOAc (10 ml) was added, and the solution filtered. This last step was repeated 3 times in order to remove the dicyclohexylurea (DCU), yielding a yellow oil. The product was purified by flash column chromatography (silica, CH2Cl2 as eluent). The solvents were removed by rotary evaporation, yielding a viscous yellow oil, which was recrystallized from acetone to give a yellow crystalline solid (Yield: 5.10 g, 74%). 1H NMR (CDCl3, 400 MHz): δ=7.12-7.49 (m, 10H, Bn), 5.98 (s, 1H, HOPO), 5.38 (s, 2H, Bn-CH2), 5.34 (s, 2H, Bn-CH2), 4.59 (t, J=7.3 Hz, 2H, thiaz), 2.90 (t, 2H, J=7.3 Hz, thiaz), 2.27 (s, 3H, HOPO CH3) ppm. Anal. Calcd (Found) for C24H22N2O3S2: C, 63.98 (64.04); H, 4.92 (5.02); N, 6.22 (6.03). FAB-MS (+): m/z: 451 [M+H]+.

reactant | 1-benzyl-3-benzyloxy-4-carboxy-6-methyl-2(1H)-pyridinone | 15.3 mmol, 5.36 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1C)C(=O)O)OCC1=CC=CC=C1)=O | C21H19NO4
reactant | 2-mercaptothiazoline | 16.1 mmol, 1.88 g | SC=1SCCN1 | C3H5NS2
reactant | dimethylaminopyridine | 1.0 mmol, 0.16 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Dicyclohexylcarbodiimide | 16.9 mmol, 3.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyl-3-benzyloxy-6-methyl-4-(2-thioxo-thiazolidine-3-carbonyl)-2(1H)-pyridinone | Yield: 5.10 g, 74% | C(C1=CC=CC=C1)N1C(C(=C(C=C1C)C(=O)N1C(SCC1)=S)OCC1=CC=CC=C1)=O | C24H22N2O3S2
